US06114390
a) 1-(Ethoxycarbonylmethyl)-1H-indole-3-acetic acid
Prepared analogously to Example 45f), but using tetrahydrofuran instead of ethanol as solvent, from phenylmethyl 1-(ethoxycarbonylmethyl)-1H-indole-3-acetate by catalytic hydrogenation in the presence of palladium/activated charcoal in a yield of 60% of theory. Colourless crystal, Mp. 138° C.

reactant | phenylmethyl 1-(ethoxycarbonylmethyl)-1H-indole-3-acetate | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC(=O)OCC1=CC=CC=C1 | C21H21NO4
catalyst | palladium | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(Ethoxycarbonylmethyl)-1H-indole-3-acetic acid | yield of 60% | C(C)OC(=O)CN1C=C(C2=CC=CC=C12)CC(=O)O | C14H15NO4
